US06600038B1
In 5 ml of acetic acid, 1.9 g of 2-Amino-4-methyl-1-(2,4-dibromo-6-chlorophenyl)pyrrole-3-carbonitrile and 1.48 g of acetic anhydride were dissolved. The reaction mixture was heated under reflux for 30 minutes. Water was added to the reaction mixture, and the reaction mixture was extracted with ethyl acetate. Subsequently, the extract was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure to yield crude N-[3-cyano-4-methyl-1-(2,4-dibromo-6-chlorophenyl)-1H-pyrrol-2-yl]acetamide. To the obtained crude N-[3-cyano-4-methyl-1-(2,4-dibromo-6-chlorophenyl)-1H-pyrrol-2-yl]acetamide, 8ml of 85% phosphoric acid were added. The reaction mixture was heated for 0.5 hours at 130° C., and subsequently, water was added thereto. The reaction mixture was extracted with chloroform, and subsequently, the extract was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane ethyl acetate=1:1) and was allowed to stand for crystallization. The precipitated crystals were washed with ethyl acetate to yield 1.1 g of 2,5-dimethyl-7-(2,4-dibromo-6-chlorophenyl)-3,7-dihydropyrrolo[2,3-d]pyrimidin -4-one.

reactant | 2-Amino-4-methyl-1-(2,4-dibromo-6-chlorophenyl)pyrrole-3-carbonitrile | 1.9 g | NC=1N(C=C(C1C#N)C)C1=C(C=C(C=C1Cl)Br)Br | C12H8Br2ClN3
reactant | acetic anhydride | 1.48 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[3-cyano-4-methyl-1-(2,4-dibromo-6-chlorophenyl)-1H-pyrrol-2-yl]acetamide | C(#N)C1=C(N(C=C1C)C1=C(C=C(C=C1Cl)Br)Br)NC(C)=O | C14H10Br2ClN3O
